US06723722B1
4-[(6-Chloro-2-naphthyl)sulfonyl]-6-methyl-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone dihydrochloride (0.63 g) was dissolved in methylene chloride (20 ml) and saturated aqueous sodium bicarbonate (20 ml) and the phases were separated. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure to obtain 4-[(6-chloro-2-naphthyl)sulfonyl]-6-methyl-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone. This material was dissolved in a 37% aqueous solution of formaldehyde (8.0 ml) and formic acid (4.1 ml) and refluxed for 2 hours. The reaction mixture was cooled, made alkaline by adding a 1N aqueous solution of sodium hydroxide, extracted with dichloromethane, dried and concentrated. The residue thus obtained was purified by a column chromatography on a silica gel (ethyl acetate: methanol=10:1) to obtain the title compound (370 mg) as colorless crystals.

reactant | 4-[(6-Chloro-2-naphthyl)sulfonyl]-6-methyl-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone dihydrochloride | 0.63 g | Cl.Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)C)NC1CCN(CC1)C1=CC=NC=C1)=O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[(6-chloro-2-naphthyl)sulfonyl]-6-methyl-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)C)NC1CCN(CC1)C1=CC=NC=C1)=O | C25H28ClN5O3S
